US07932272B2
To a solution of C-(5-(3-benzyloxy-phenoxy)-thiophen-2-yl)-methylamine described in Preparation Example 18 (180 mg, 0.578 mmol) and 6-quinolinecarboxylic acid (100 mg, 0.578 mmol) in tetrahydrofuran (5 mL) were added benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate (307 mg, 0.694 mmol) and triethylamine (0.16 mL, 1.16 mmol), and the solution was stirred overnight at room temperature. Ethyl acetate and water were added to the reaction solution, which was then partitioned, the organic layer was washed with water, and then, dried over anhydrous magnesium sulfate. The solvent was evaporated, the residue was purified by NH silica gel column chromatography (hexane: ethyl acetate), and quinoline-6-carboxylic acid (5-(3-benzyloxy-phenoxy)-thiophen-2-ylmethyl)-amide (73 mg, 27%) was obtained as a pale yellow solid.

reactant | C-(5-(3-benzyloxy-phenoxy)-thiophen-2-yl)-methylamine | C(C1=CC=CC=C1)OC=1C=C(OC2=CC=C(S2)CN)C=CC1 | C18H17NO2S
reactant | 6-quinolinecarboxylic acid | 0.578 mmol, 100 mg | N1=CC=CC2=CC(=CC=C12)C(=O)O | C10H7NO2
reactant | benzotriazol-1-yloxytris(dimethylamino)phosphonium hexafluorophosphate | 0.694 mmol, 307 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 1.16 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | quinoline-6-carboxylic acid (5-(3-benzyloxy-phenoxy)-thiophen-2-ylmethyl)-amide | 73 mg, 27% | C(C1=CC=CC=C1)OC=1C=C(OC2=CC=C(S2)CNC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C28H22N2O3S
